US09238631B2
h) (5S)-2-(tert-Butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-(4-hydroxybenzyl)hexanedioic acid 6-tert-butyl ester
To a solution of 1.07 g di-tert-butyl (5S)-2-[4-(benzyloxy)benzyl]-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate (1.52 mmol) in methanol (20 mL) was added a 10% palladium on carbon hydrogenation catalyst (100 mg) at room temperature. The suspension was stirred overnight at room temperature under an atmosphere of hydrogen. The catalyst was removed by filtration and all volatiles were removed in vacuo. The crude product (800 mg, quantitative yield) was used in the next step without further purification.

reactant | di-tert-butyl (5S)-2-[4-(benzyloxy)benzyl]-2-(benzyloxycarbonyl)-5-[(tert-butoxycarbonyl)amino]hexanedioate | 1.52 mmol, 1.07 g | C(C1=CC=CC=C1)OC1=CC=C(CC(C(=O)OC(C)(C)C)(CC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C(=O)OCC2=CC=CC=C2)C=C1 | C41H53NO9
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | (5S)-2-(tert-Butoxycarbonyl)-5-[(tert-butoxycarbonyl)amino]-2-(4-hydroxybenzyl)hexanedioic acid 6-tert-butyl ester | 800 mg, quantitative yield | C(C)(C)(C)OC([C@H](CCC(C(=O)O)(CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C27H41NO9
